US04886809
10 Grams of 6-(4-acetyloxyimino-1-piperidylcarbonyl)-3,4-dihydrocarbostyril and 0.5 g of platinum oxide were dispersed in 150 ml of acetic acid, then the mixture was catalytically reduced at room temperature under normal pressure. The catalyst was removed by filtration, then the filtrate was concentrated under reduced pressure by evaporating the solvent, the residue thus obtained was purified by means of a silica gel column chromatography (eluent: dichloromethane:methanol=10:1) to yield 3 g of 6-(4-amino-1-piperidylcarbonyl)-3,4-dihydrocarbostyril.

reactant | 6-(4-acetyloxyimino-1-piperidylcarbonyl)-3,4-dihydrocarbostyril | C(C)(=O)ON=C1CCN(CC1)C(=O)C=1C=C2CCC(NC2=CC1)=O | C17H19N3O4
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
catalyst | platinum oxide | 0.5 g | [Pt]=O
product | 6-(4-amino-1-piperidylcarbonyl)-3,4-dihydrocarbostyril | 3 g | NC1CCN(CC1)C(=O)C=1C=C2CCC(NC2=CC1)=O | C15H19N3O2
